US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxyphenylamino)-propyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(3,4-dimethoxyphenylamino)-propylamine, paraformaldehyde and sodium cyanoborohydride analogously to Example 5.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(3,4-dimethoxyphenylamino)-propylamine | COC1=CC2=C(CC(N(CC2)CCCNCCCNC2=CC(=C(C=C2)OC)OC)=O)C=C1OC | C26H37N3O5
reactant | paraformaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxyphenylamino)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCNC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C27H39N3O5
